US05864039
4-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)butylamine (1.00 g) as starting compound was reacted and treated in the same manner as in Example 34 using methyl isocyanate (0.24 ml) and 4-amino-5-chloro-2-methoxybenzoic acid (0.74 g) to give 4-amino-5-chloro-2-methoxy-N-(1-(4-(3-methylureido)butyl)pyrrolidin-3-ylmethyl)benzamide.

reactant | 4-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)butylamine | 1.00 g | C(C)(C)(C)OC(=O)NCC1CN(CC1)CCCCN | C14H29N3O2
reactant | methyl isocyanate | 0.24 ml | CN=C=O | C2H3NO
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.74 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
product | 4-amino-5-chloro-2-methoxy-N-(1-(4-(3-methylureido)butyl)pyrrolidin-3-ylmethyl)benzamide | NC1=CC(=C(C(=O)NCC2CN(CC2)CCCCNC(=O)NC)C=C1Cl)OC | C19H30ClN5O3
